US04789465
Preparation of 3-Chloro-2-pyridinesulfonamide-1-oxide
To a stirring solution of 3-chloro-2-pyridinesulfonamide (2.5 g, 13.0 mmol) in 35 mL of trifluoroacetic acid was added 30% H2O2 (1.2 g, 35.1 mmol). The solution was concentrated to ~15 mL, diluted with ethyl acetate, washed twice with brine, dried and concentrated. The resulting solid was flash chromatographed with EtOAc to afford the desired product, m.p. 195°-197° C.

reactant | 3-chloro-2-pyridinesulfonamide | 13.0 mmol, 2.5 g | ClC=1C(=NC=CC1)S(=O)(=O)N | C5H5ClN2O2S
reactant | H2O2 | 35.1 mmol, 1.2 g | OO | H2O2
solvent | trifluoroacetic acid | 35 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Chloro-2-pyridinesulfonamide-1-oxide | ClC1=C([N+](=CC=C1)[O-])S(=O)(=O)N | C5H5ClN2O3S
